US06900336B2
1.98 g (9.59 mmol) (S)—O-Benzyl-dihydro-5-hydroxymethyl-2(3H)furanone and 3.14 g (16.25 mmol) ethyl p-aminoethylbenzoate were dissolved in 50 mL THF and stirred at 50° C. for 20 hours. Reaction was concentrated and crude residue purified via chromatography, eluting with 50% ethyl acetate/hexane yielding 2.24 g (5.61 mmol, 58% yield) N′-[2-(4-carboethoxyphenyl)ethyl]-5-benzyloxy-4-hydroxypentanamide as a white solid. Step 3

reactant | ethyl p-aminoethylbenzoate | 16.25 mmol, 3.14 g | NCCC1=CC=C(C(=O)OCC)C=C1 | C11H15NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl acetate hexane | 5.61 mmol, 2.24 g, 58% yield | C(C)(=O)OCC.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
